US07741327B2
To a stirred solution of (S)-2-amino-3-cyclohexyl-propionic acid methyl ester (1.37 g, 0.007 mol) in N,N-dimethylformamide (8 mL) was added N,N-diisopropylethylamine (4.30 g, 0.033 mol) slowly at room temperature, under nitrogen. The resulting mixture was stirred for 5 min and then treated with (E)-4-bromo-3-(6-methyl-pyridin-3-yloxy)-but-2-enoic acid ethyl ester (2.00 g, 0.007 mol) and the reaction mixture was heated at 110° C.-120° C. for 16 h. After this time, ice water was added and the resulting mixture was extracted with ethyl acetate. The combined organic layers were washed with a saturated aqueous sodium chloride solution, dried over sodium sulfate and concentrated in vacuo. Purification by flash column chromatography (silica gel (100-200 mesh)) afforded (S)-3-cyclohexyl-2-[4-(6-methyl-pyridin-3-yloxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-propionic acid methyl ester (410 mg, 15%) as a yellow oil.

reactant | (S)-2-amino-3-cyclohexyl-propionic acid methyl ester | 0.007 mol, 1.37 g | COC([C@H](CC1CCCCC1)N)=O | C10H19NO2
reactant | N,N-diisopropylethylamine | 0.033 mol, 4.30 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (E)-4-bromo-3-(6-methyl-pyridin-3-yloxy)-but-2-enoic acid ethyl ester | 0.007 mol, 2.00 g | C(C)OC(\C=C(/CBr)\OC=1C=NC(=CC1)C)=O | C12H14BrNO3
solvent | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
product | (S)-3-cyclohexyl-2-[4-(6-methyl-pyridin-3-yloxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-propionic acid methyl ester | 410 mg, 15% | COC([C@H](CC1CCCCC1)N1C(C=C(C1)OC=1C=NC(=CC1)C)=O)=O | C20H26N2O4
